US07632838B2
To a solution of (3R)-1-[4-fluoro-2-(trifluoromethyl)phenyl]-3-methylpiperazine (2.5 g, 9.53 mmol) in DCM (50 mL) at 0° C. was added 3-acetyl benzenelsulfonyl chloride (2.08 g, 9.53 mmol) and DIPEA (3.32 mL, 19.06 mmol). The resultant mixture was stirred at room temperature overnight, then washed with H2O first, the aqueous layer was extracted with DCM (2×50 mL). The combined organic layer was dried over Na2SO4. The crude product was purified on SiO2 gel column eluted with 30-40% EtOAc in hexanes to give 1-[3-({(2R)4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]ethanone as an off white solid (3.7 g, 90%). Step 3: To 1-[3-({(2R)4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]ethanone (3.7 g, 8.33 mmol) was added TMS-CF3 (50 mL, 25 mmol, 0.5 M in THF) at room temperature. This was cooled down to 0° C. in an ice bath, then TBAF (8.33 mL, 8.33 mmol, 1.0 M in THF) was added slowly. The resultant mixture was stirred at 0° C. for 30 min, then stirred at room temperature for 5 hours. The resultant mixture was diluted with saturated NaHCO3 (40 mL), washed with DCM (100 mL). This was separated, the organic layer washed with saturated brine, dried over Na2SO4. The crude product was purified on SiO2 gel column eluted with 30-50% EtOAc in Hexanes first, then purified again on SiO2 gel column eluted with 2.5% MeOH in DCM to give 1,1,1-trifluoro-2-[3-({(2R)4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]propan-2-ol as a white solid (2.76 g, 64%).

reactant | 1-[3-({(2R)4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]ethanone | 8.33 mmol, 3.7 g | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)C(C)=O)C)C(F)(F)F | C20H20F4N2O3S
reactant | TMS-CF3 | 25 mmol, 0.5 M, 50 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | TBAF | 8.33 mmol, 1.0 M, 8.33 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
product | 1,1,1-trifluoro-2-[3-({(2R)4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]propan-2-ol | 2.76 g, 64% | FC(C(C)(O)C1=CC(=CC=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C)(F)F | C21H21F7N2O3S
